Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]1[O:6][C:7]1[H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7][H:8],-3.92244800966
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:9]([H:10])([H:11])[H:12].[O:7][H:8],4.88887456966
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10].[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.681759598309999
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],4.09048980733
[C:7]([H:8])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:10]([H:9])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.0471309068400005
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-1.62900551578
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.60978459581
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:7],4.37338011127
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[O:1]=[C:2],2.40982904149
[H:15].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.82201470296
[C:1]#[C:2].[C:3](=[O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[H:8],-4.8200952949
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12],4.1390229527
[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4](=[O:5])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],3.91726113427
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])=[C:7][H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],4.722085867480001
[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],1.31077328365
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.21281272972
[H:1].[O:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-3.8327194918
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.32337658062
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.427863262980001
[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-3.40666958171
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-1.19822670904
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10].[O:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][O:11],-0.385532320581
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.55242902543
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4],7.065010677410001
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],3.19594942497
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],3.5768402784699993
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[O:7].[H:8],1.17760460514
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.4366031030000002
